datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])=[C:9]([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])([H:19])[H:20])([H:17])[H:18])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])[C:9]1([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])[H:13],88.9518
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][H:12],-5.8576
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])[O:7][O:8][H:19])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:15])[O:7]1)([H:9])([H:10])[H:11].[O:8][H:19],36.8192
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15],50.208
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])[H:13])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])([H:13])[O:7]1)([H:9])([H:10])[H:11].[O:8][H:19],39.342152
[C:0](=[S:1])([H:2])[H:3].[C:4](=[C:5][C:6](=[S:7])[H:10])([H:8])[H:9]>>[C:0](=[S:1])[H:3].[H:2][C:5](=[C:4]([H:8])[H:9])[C:6](=[S:7])[H:10],61.0864
[C:0]([C:1](=[O:2])[C:3]([C:4]([O:5])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([O:5][H:6])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],34.438504
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26])[H:8])([H:6])[H:7],0.6276
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([S:9][H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][C:8]([C:7]([H:10])([H:11])[H:12])([S:9][H:14])[H:13],26.401
[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[C:9]([O:10][H:14])([H:11])([H:12])[H:13]>>[C:0]([C:1]([O:2][O:3][H:11])([H:7])[H:8])([H:4])([H:5])[H:6].[C:9]([O:10][H:14])([H:12])[H:13],57.36264
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([c:8]1[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]1[H:26])[H:21])([c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:20]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:6]([C:7]([c:8]1[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]1[H:26])[H:21])([c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:20])[H:3],45.6056
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[O:8][O:9][H:10]>>[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])([H:4])[H:10].[O:8][O:9],0.0
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4](=[O:5])[H:14])([H:6])[H:7].[O:15][O:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4](=[O:5])[H:14])([H:6])([H:7])[O:15][O:16],0.0
[C:0](=[C:1]([C:2]1=[C:3]([H:9])[C:4]([H:10])=[C:5]([H:11])[C:6]1([H:12])[H:13])[H:8])[H:7]>>[C:0](=[C:1]([C:2]1=[C:3]([H:9])[C:4]([H:10])=[C:5]([H:11])[C:6]1[H:13])[H:8])([H:7])[H:12],44.30856
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[S:8])[H:9]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:7](=[S:8])[H:9],56.9024
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13](=[S:14])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:18])[H:7])([H:5])[H:6].[C:12]([C:13]=[S:14])([H:15])([H:16])[H:17],131.796
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](=[C:10]([C:11]([S:12][H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])([S:12][H:17])[H:16],86.9435
[H:12].[O:0]=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4](=[O:5])[C:6]([H:10])=[C:7]1[H:11]>>[O:0][C:1]1([H:12])[C:2]([H:8])=[C:3]([H:9])[C:4](=[O:5])[C:6]([H:10])=[C:7]1[H:11],40.75216
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9]([C:10](=[S:11])[H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:15])[H:5].[C:8]([C:9]([C:10](=[S:11])[H:17])[H:16])([H:12])([H:13])[H:14],32.2168
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:14][H:23],18.706664
